US09302996B2
In trifluoroacetic acid (1.0 mL) and water (0.05 mL) was dissolved 3-[(5-{3-chloro-4-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]-2,2-dimethylpropanoic acid (268 mg), and the solution was stirred at room temperature for 10 hours. The solution was neutralized by adding 2N aqueous sodium hydroxide solution, and extracted with ethyl acetate. The extract was washed with a saturated brine, and the organic layer was separated and concentrated under reduced pressure. Ether was added to the obtained residue, and the precipitated solid was collected by filtration and dried under reduced pressure to obtain 3-[(5-{3-chloro-4-[5-(trifluoromethyl)-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]-2,2-dimethylpropanoic acid (133 mg).

reactant | 3-[(5-{3-chloro-4-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]-2,2-dimethylpropanoic acid | 268 mg | ClC=1C=C(C=CC1C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C)C=1C(=CC(=NC1)OCC(C(=O)O)(C)C)C | C27H33ClF3N3O4Si
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | trifluoroacetic acid | 1.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 0.05 mL | O | H2O
product | 3-[(5-{3-chloro-4-[5-(trifluoromethyl)-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]-2,2-dimethylpropanoic acid | 133 mg | ClC=1C=C(C=CC1C=1NC(=CN1)C(F)(F)F)C=1C(=CC(=NC1)OCC(C(=O)O)(C)C)C | C21H19ClF3N3O3
